US06545135B2
2,3,4,6-Tetra-O-benzyl-1-O-(1-hydroxy-eth-2-yl)-galactopyranose
A mixture that consists of 54.1 g (100 mmol) of 2,3,4,6-tetra-O-benzyl-benzylgalactopyranose, 1.64 g (15 mmol) of tetramethylammonium chloride in 350 ml of toluene and 200 ml of 60% aqueous sodium hydroxide solution is cooled to 0° C. At 0° C., 52.7 g (130 mmol) of 2-(4,4′-dimethoxytriphenylmethyloxy)-ethylbromide, dissolved in 100 ml of toluene, is added in drops over 30 minutes while being stirred vigorously. It is stirred for three hours at 0° C. 300 ml of toluene is added, the organic phase is separated, and the aqueous phase is extracted twice with 200 ml of toluene. The solvent is distilled off in a vacuum. The residue is taken up in 500 ml of dichloromethane, and 25 g (194 mmol) of dichloroacetic acid is added. It is stirred for three hours at 35° C. The solution is washed three times with 300 ml of 10% aqueous sodium hydroxide solution, and the organic phase is evaporated to the dry state, and the residue is chromatographed on silica gel (mobile solvent: dichloromethane/ethanol=20:1).

reactant | 2,3,4,6-tetra-O-benzyl-benzylgalactopyranose | 100 mmol, 54.1 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=CC=C1 | C41H42O6
reactant | dichloroacetic acid | 194 mmol, 25 g | ClC(C(=O)O)Cl | C2H2Cl2O2
catalyst | tetramethylammonium chloride | 15 mmol, 1.64 g | [Cl-].C[N+](C)(C)C
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3,4,6-Tetra-O-benzyl-1-O-(1-hydroxy-eth-2-yl)-galactopyranose | C(C1=CC=CC=C1)O[C@H]1C(OCCO)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C36H40O7
